US07807676B2
To a stainless steel pressure vessel containing 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.076 g, 0.162 mmol) in Dioxane (4 mL) was added triethylamine (0.5 mL, 3.59 mmol), water (0.05 mL), cyclopropylamine (0.034 mL, 0.487 mmol), and tetrakis (0.038 g, 0.032 mmol). The mixture was flushed with N2. The stainless steel pressure vessel was purged of air, and refilled with N2 three times. After the final fill with N2, the N2 was removed by vacuum. The vessel was filled and purged with 50 psi carbon monoxide three times, then filled the vessel to an initial reaction pressure of 90 psi of carbon monoxide. The vessel was heated in an oil bath at 100° C. After 15 h, the mixture was cooled to 0° C. The excess CO was removed by vacuum, and the mixture was diluted with MeOH and was filtered through a pad of celite to remove the solids. The product was purified by prep HPLC to give N-cyclopropyl-4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide (0.014 g, 0.027 mmol, 16.7% yield) as an off-white solid. 1H NMR (500 MHz, DMSO-D6) δ ppm 12.54 (s, 1H) 8.77 (s, 1H) 8.63-8.68 (m, 1H) 8.12-8.19 (m, 2H) 8.02 (s, 1H) 7.84 (d, J=7.93 Hz, 1H) 7.64 (dd, J=7.48, 4.73 Hz, 1H) 4.01 (s, 3H) 3.68-3.73 (m, 2H) 3.38-3.45 (m, 4H) 3.22-3.27 (m, 2H) 2.92-2.99 (m, 1H) 0.69-0.74 (m, 4H). LCMS: m/e 517.18 (M+H)+, ret time 1.378 min (method 3).

reactant | 1-(7-chloro-4-methoxy-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.162 mmol, 0.076 g | ClC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)OC | C20H18ClN9O3
reactant | triethylamine | 3.59 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | water | 0.05 mL | O | H2O
reactant | cyclopropylamine | 0.487 mmol, 0.034 mL | C1(CC1)N | C3H7N
solvent | Dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis | 0.032 mmol, 0.038 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-cyclopropyl-4-methoxy-3-(2-oxo-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridine-7-carboxamide | 0.027 mmol, 0.014 g, 16.7% yield | C1(CC1)NC(=O)C=1N=CC(=C2C1NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O)=O)OC | C24H24N10O4
